US08217027B2
To a slurry of LAH (7.83 g, 206 mmol) in Et2O (500 mL) at about 0° C. was added a solution of (1R,3R)-methyl 1-amino-3-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)cyclopentanecarboxylate (25 g, 68.8 mmol) in THF (100 mL). After about 2 hours water (7.8 mL) followed by 2N NaOH (7.8 mL) followed by water (15 mL) was added. After stirring for about 15 hours Na2SO4 and Celite® was added to the reaction mixture and the slurry was filtered, rinsing with EtOAc. The filtrate was concentrated in vacuo to provide ((1R,3R)-1-amino-3-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)cyclopentyl)methanol (25 g, 55.9 mmol, 81% yield) as an brown oil.

reactant | LAH | 206 mmol, 7.83 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (1R,3R)-methyl 1-amino-3-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)cyclopentanecarboxylate | 68.8 mmol, 25 g | N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)C#CCOCC1=CC=CC=C1)C(=O)OC | C23H25NO3
reactant | NaOH | 2N, 7.8 mL | [OH-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | Et2O | 500 mL | CCOCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | water | 7.8 mL | O | H2O
product | ((1R,3R)-1-amino-3-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)cyclopentyl)methanol | 55.9 mmol, 25 g, 81% yield | N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)C#CCOCC1=CC=CC=C1)CO | C22H25NO2
